US04820705
4-(2-p-Toluenesulphonamido-indan-5-yl)-4-oxobutyric acid
Preparated analogously to Example 2 from methyl 4-(2-p-toluenesulphonamido-indan-5-yl)-4-oxobutyrate by hydrolysis with sodium hydroxide.

reactant | methyl 4-(2-p-toluenesulphonamido-indan-5-yl)-4-oxobutyrate | C1(=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)OC)=O)C | C21H23NO5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(2-p-Toluenesulphonamido-indan-5-yl)-4-oxobutyric acid | C1(=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)O)=O)C | C20H21NO5S
